US05270331
5-Chloro-2,3-dihydro-3-[3-carboxypropenoyloxy-(2-thienyl)methylene]-2-oxo-1H-indole-1-carboxamide
The title compound was prepared by the procedure of Example 1 with the exception the 3-(2-trimethylsilylethyloxycarbonyl)propenoyl chloride (1.3 equiv.), 5-chloro-2,3-dihydro-3-[hydroxy-(2-thienyl)methylene]-2-oxo-1H-indole-1-carboxamide and diisopropylethylamine were used. The crude product was purified by flash chromatography (using 98:2 CH2Cl2 /EtOAc as eluant) followed by recrystallization from acetonitrile.

reactant | 3-(2-trimethylsilylethyloxycarbonyl)propenoyl chloride | 1.3 equiv. | C[Si](CCOC(=O)C=CC(=O)Cl)(C)C | C9H15ClO3Si
reactant | 5-chloro-2,3-dihydro-3-[hydroxy-(2-thienyl)methylene]-2-oxo-1H-indole-1-carboxamide | ClC=1C=C2C(C(N(C2=CC1)C(=O)N)=O)=C(C=1SC=CC1)O | C14H9ClN2O3S
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
product | 5-Chloro-2,3-dihydro-3-[3-carboxypropenoyloxy-(2-thienyl)methylene]-2-oxo-1H-indole-1-carboxamide | ClC=1C=C2C(C(N(C2=CC1)C(=O)N)=O)=C(C=1SC=CC1)OC(C=CC(=O)O)=O | C18H11ClN2O6S
